US05726319
Step A: (R)-α-[(3-Benzyloxycarbonylamino-3-methyl-1-oxobutyl)amino]benzenebutanoic acid allyl ester
D-Homophenylalanine allyl ester (350 mg; 1.60 mmol), triethylamine (445 μl; 3.19 mmol) and 3-t-butoxycarbonylamino-3-methylbutanoic acid (412.8 mg; 1.64 mmol) were dissolved in dry methylene chloride (3 ml) and stirred at room temperature to give a homogeneous solution. BOP was added to the solution over 5 minutes and the reaction mixture stirred together at room temperature for 12 h. The reaction mixture was quenched by adding brine (10 ml) directly to the reaction. The crude products were isolated by extraction with methylene chloride (2×25 ml); the combined methylene chloride extracts dried with powdered anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The pale yellow oil thus obtained was subjected to column chromatography on silica gel using an eluant of ethyl acetate and hexanes (1:1 v/v). In this way, 432 mg (59.7%) of the desired product was isolated as a colorless oil. FAB-MS: -calculated for C26H32N2O5 452.2; found 453.4 (M+1).

reactant | D-Homophenylalanine allyl ester | 1.60 mmol, 350 mg | C(C=C)OC([C@H](N)CCC1=CC=CC=C1)=O | C13H17NO2
reactant | triethylamine | 3.19 mmol, 445 μl | C(C)N(CC)CC | C6H15N
reactant | 3-t-butoxycarbonylamino-3-methylbutanoic acid | 1.64 mmol, 412.8 mg | C(C)(C)(C)OC(=O)NC(CC(=O)O)(C)C | C10H19NO4
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-α-[(3-Benzyloxycarbonylamino-3-methyl-1-oxobutyl)amino]benzenebutanoic acid allyl ester | 432 mg, 59.7% | C(C=C)OC([C@@H](CCC1=CC=CC=C1)NC(CC(C)(C)NC(=O)OCC1=CC=CC=C1)=O)=O | C26H32N2O5
